Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Patient is a ___ y/o female with multiple myeloma presents for HD 
Cytoxan mobilization.
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ year old woman with a history of Multiple Myeloma. 
She is s/p 4 cycles of RVD. Notes that her neuropathy in her 
feet has worsened since her last visit and was started on 
Gabapentin 300mg bid (which she started on ___. Notes that 
she doesn't really feel as though it is helping. Notes 
neuropathy goes up to her ankles. Also notes that she has some 
tingling in her fingertips. She notes that the neuropathy in her 
feet wakes her up at night.  Only other complaint today is that 
she had 2 episodes of somewhat loose
stool this morning. Since resolved. Denies any n/v.  Denies 
fever, chills, or nightsweat. Denies any other pain.

 
Past Medical History:
PMH/PSX:
- Asthma
- HTN
- TAH, tubal ligation

 
Social History:
___
Family History:
 Mother died of CRF complicated by CAD at age ___. Father died
of laryngeal cancer at ___. One sister with MM. One sister with
ovarian ___, One brother with liver CA. 10 healthy siblings

 
Physical Exam:
VS: Tmax 99.0 BP 120/80 HR 66 RR 18 O2 100%
GENERAL: ___ year old female sitting at edge of exam table in no
acute distress.
HEENT: Oropharynx is clear without any erythema, lesions or
thrush.
NECK: Supple without any adenopathy.
CHEST: clear to ausculation.
HEART:  RRR, no MRG
ABD: +BS, NT, ND, no HSM
EXT: No PE, good pulses
Neuro: CN II-XII intact.  Otherwise grossly normal.

 
Pertinent Results:
___ 06:15AM BLOOD WBC-4.8 RBC-3.26* Hgb-10.6* Hct-32.7* 
MCV-100* MCH-32.6* MCHC-32.5 RDW-14.2 Plt ___
___ 11:25AM BLOOD WBC-6.1 RBC-3.77* Hgb-11.8* Hct-36.8 
MCV-98 MCH-31.3 MCHC-32.2 RDW-14.6 Plt ___
___ 06:15AM BLOOD Neuts-77.5* ___ Monos-1.5* 
Eos-0.3 Baso-0.3
___ 11:25AM BLOOD Neuts-49.5* Lymphs-42.5* Monos-5.6 
Eos-1.3 Baso-1.0
___ 06:15AM BLOOD Glucose-138* UreaN-14 Creat-0.7 Na-139 
K-3.7 Cl-104 HCO3-25 AnGap-14
___ 11:25AM BLOOD UreaN-10 Creat-0.8 Na-137 K-3.3 Cl-99 
HCO3-29 AnGap-12
___ 06:15AM BLOOD ALT-13 AST-11 LD(LDH)-197 AlkPhos-56 
TotBili-0.3
___ 11:25AM BLOOD ALT-19 AST-18 LD(LDH)-243 AlkPhos-62 
TotBili-0.6
___ 06:15AM BLOOD Albumin-3.8 Calcium-8.4 Phos-2.4*# Mg-1.8
___ 11:25AM BLOOD TotProt-7.8 Albumin-4.5 Globuln-3.3 
Calcium-9.___ year old female with IgG K Multiple Myeloma presents for HD
Cytoxan mobilization.

# Multiple Myeloma. HD Cytoxan overnight admission. u/a on
admission WNL, will recheck tomorrow am after HD Cytoxan.
Antiemetics and IVF per protocol. Patient will begin neupogen, 
cipro, and dex ___, f/u in clinic ___.

# Neuropathy. To continue gabapentin 300mg TID and amitryptyline
@hs. Oxycodone prn for breakthrough relief.

# Infectious prophylaxis:
- PCP:  none 
- HSV/VZV: acyclovir

# HTN. To continue propranolol and triam-HCTZ with home dosing.
If HR<50 hold propranolol. EKG sinus brady with HR 56, within
normal range for patient , asymptomatic.

Prophylaxes:
# FEN: regular diet
# Pain control: oxycodone prn, gaba, amitryptyline
# Bowel regimen: no acute issue
# Code status: full

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Amitriptyline 25 mg PO HS 
3. Gabapentin 300 mg PO TID 
4. Ciprofloxacin HCl 500 mg PO Q12H 
5. Dexamethasone 4 mg PO Q12H 
6. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
7. Propranolol 20 mg PO TID 
8. Triamterene-Hydrochlorothiazide (37.5/25) 1 CAP PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Amitriptyline 25 mg PO HS 
3. Dexamethasone 4 mg PO Q12H 
4. Gabapentin 300 mg PO TID 
5. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
6. Propranolol 20 mg PO TID 
7. Triamterene-Hydrochlorothiazide (37.5/25) 1 CAP PO DAILY 
8. Lorazepam 0.5-1 mg PO Q6H:PRN anxiety/nausea/vomiting 
RX *lorazepam 0.5 mg ___ tabs by mouth every 6 hours as needed 
Disp #*120 Tablet Refills:*0
9. Ciprofloxacin HCl 500 mg PO Q12H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Myeloma
neuropathy
HTN
asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted overnight to receive Cytoxan chemotherapy. You 
tolerated this very well with minor complaints of fatigue. You 
will be sent home with a new antibiotic called ciprofloxacin and 
anti nausea medications. You will begin neupogen on ___ 
___. You will follow up with the nurse practitioner next 
week on ___. Please do not hesitate to call in the interm 
with any questions or concerns.
 
Followup Instructions:
___